US07888383B2
d) [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid methyl ester
To a stirring solution of (2-methyl-1H-indol-3-yl)-acetic acid methyl ester (2.0 g, 10.5 mmol) in dry DMF (25 ml) at 0° C., is added portionwise NaH (0.46 g, 11.5 mmol) as a 60% dispersion in mineral oil. The reaction mixture is stirred at 0° C. for 1.5 h then NaI (1.72 g, 11.5 mmol) and 1-bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene (3.65 g, 11.5 mmol) are added. The reaction mixture is stirred at room temperature for 16 h. The reaction mixture is poured into water (100 ml) and EtOAc (50 ml) is added. An emulsion is formed which is filtered. Brine (20 ml) is added to the filtrate and the organic phase is separated and dried (MgSO4). Evaporation in vacuo affords a brown oil. Purification by flash chromatography on silica gel using 5:1 iso-hexane:EtOAc, increasing polarity up to 3:1 iso-hexane:EtOAc, gives the desired product; [M+H]+ 440.

reactant | (2-methyl-1H-indol-3-yl)-acetic acid methyl ester | 10.5 mmol, 2.0 g | COC(CC1=C(NC2=CC=CC=C12)C)=O | C12H13NO2
reactant | NaH | 11.5 mmol, 0.46 g | [H-].[Na+]
reactant | NaI | 11.5 mmol, 1.72 g | [Na+].[I-]
reactant | 1-bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene | 11.5 mmol, 3.65 g | BrCC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F | C9H8BrF3O2S
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | water | 100 ml | O | H2O
product | [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=CC=CC=C12)CC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F)C)=O | C21H20F3NO4S
